US06005116
2-(N-tert-Butoxycarbonylamino)ethanol
2-Aminoethanol (6.1 g) was dissolved in a mixture of tetrahydrofuran and water (1:1, 100 ml), and di-tert-butyl dicarbonate (21.8 g) was added dropwise thereto under ice-cooling with stirring, followed by stirring of the resulting mixture at the same temperature for one hour and further at room temperature for 5 hours. After ethyl acetate (200 ml) was added to the reaction mixture and the mixture was washed with water, the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to obtain the title compound (15.3 g, 95%) as a colorless oil.

reactant | 2-Aminoethanol | 6.1 g | NCCO | C2H7NO
reactant | di-tert-butyl dicarbonate | 21.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2-(N-tert-Butoxycarbonylamino)ethanol | 15.3 g, 95% | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
